US08232293B2
Preparation of Quinoline Starting Material Compound 11
Oxalyl chloride (8.15 mL) is added dropwise to the cold mixture (10±5° C.) of Thiazole acid 8 (20.18 g) is dissolved in THF (300 mL) and DMF (300 μL) over a period of ˜5 min keeping the internal temperature at 10±5° C. The reaction mixture becomes yellow and homogenous. The cooling bath is removed and the mixture is allowed to reach ambient temperature over a period of ˜30 min. Gas evolution is observed. The mixture is stirred at ambient temperature for 30 min to 1 hour. A solution of aniline 7 (19.8 g), DMAP (140 mg) and THF (35 mL) was added at 10±5° C. Et3N (13.2 mL) was added in portions at 10±5° C. over a period of 10 min. The ice bath was removed and mixture was heated to 65±2° C. and stirred overnight (18 h). The mixture was allowed to reach ambient temperature, diluted with EtOAc (150 mL) and washed with water (150 mL). NaHCO3 (5%, 225 mL) was added to the organic portion and the mixture was stirred at ambient temperature for 30 min. The organic portion was concentrated under reduced pressure at approx. 40° C. EtOAc (150 mL) was added to the resulting material and the residual water was removed and the mixture was concentrated under reduced pressure at approx. 40° C. (to azeotrope water). EtOAc (94 mL) was added and the resulting slurry was stirred for 2-6 h and filtered. The solid was washed with EtOAc (30 mL) followed by heptane (30 mL) and air dried for 1 h to give the desired product in 70% yield.

reactant | Oxalyl chloride | 8.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Thiazole | S1C=NC=C1 | C3H3NS
reactant | DMF | 300 μL | CN(C)C=O | C3H7NO
reactant | THF | 300 mL | C1CCOC1 | C4H8O
product | Quinoline | 70% yield | N1=CC=CC2=CC=CC=C12 | C9H7N
